US09227985B2
Step 1. 1,4-Dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
1,4-Dimethyl-1H-pyrazole (50 mg, 0.5 mmol) was stirred in THF (2 mL) and cooled to 0° C. A solution of 1.6 M n-butyllithium in hexanes (390 mL) was added dropwise by syringe and the mixture was allowed to warm to room temperature for 2 h. The mixture was cooled to −78° C. and 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (110 mL, 0.52 mmol) was added dropwise by syringe. The mixture was stirred at −78° C. for 15 min. and at 0° C. for 3 h. The mixture was diluted with EtOAc and washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. Purification by chromatography on silica gel using EtOAc in hexanes gave the sub-title compound. LCMS calc. for C11H20BN2O2 (M+H)+: m/z=223.2. found: 223.0.

reactant | 1,4-Dimethyl-1H-pyrazole | 0.5 mmol, 50 mg | CN1N=CC(=C1)C | C5H8N2
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.52 mmol, 110 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,4-Dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H19BN2O2
